US06060469
4-(4-Methoxyphenyl)pyridine
A mixture of 4-methoxybenzene boronic acid (2 g, 13.15 mmol), 4-bromopyridine hydrochloride (3.84 g, 19.72 mmol), diphenylphosphinobutylpalladium (II) dichloride (100 mg), dimethoxyethane (50 ml) and 2M sodium carbonate solution (30 ml) were stirred at 85° C. for 1.5 hours under a nitrogen atmosphere. The solution was allowed to cool to ambient temperature, diluted with ethyl acetate (150 ml) and washed with water (150 ml). The aqueous layer was extracted with ethyl acetate (2×100 ml). The combined organic layers were dried over sodium sulphate and the solvents were removed leaving a white solid, which was chromatographed on silica gel in 70-100% ethyl acetate/hexane giving the title compound as a white solid (1.95 g, 80%). 1H NMR (250 MHz, CDCl3) δ 8.66-8.63 (2H, d, J=6.2 Hz), 7.63-7.59 (2H, d, J=9.0 Hz), 7.50-7.47 (2H, d, J=6.2 Hz), 7.03-6.99 (2H, d, J=9.0 Hz), and 3.87 (3H, s). m/z (ES+) 186 (M+1).

reactant | 4-methoxybenzene boronic acid | 13.15 mmol, 2 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-bromopyridine hydrochloride | 19.72 mmol, 3.84 g | Cl.BrC1=CC=NC=C1
reactant | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
reactant | sodium carbonate | 2M, 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | diphenylphosphinobutylpalladium (II) dichloride | 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)CCCC[Pd-](Cl)Cl
product | 4-(4-Methoxyphenyl)pyridine | COC1=CC=C(C=C1)C1=CC=NC=C1 | C12H11NO
